US05514680
A solution of 3-amino-6-fluorobenzotrifluoride (2.0 g, 11.17 mmol, Aldrich) in acetic anhydride (10 mL) and Et3N (1 mL) was stirred at room temperature for 24 h, and then most of the acetic anhydride was removed. The white needle crystals were collected by filtration and washed with water (2×2 mL), affording 2.4 g (97%) of 3-acetamido-6-fluorobenzotrifluoride. 1H NMR (CDCl3): δ2.184 (S, 3H); 7.136 (t, 1H, J=9.9 Hz); 7.733 (m, 3H).

reactant | 3-amino-6-fluorobenzotrifluoride | 11.17 mmol, 2.0 g | NC=1C=C(C(=CC1)F)C(F)(F)F | C7H5F4N
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
product | 3-acetamido-6-fluorobenzotrifluoride | 2.4 g, 97% | C(C)(=O)NC=1C=C(C(=CC1)F)C(F)(F)F | C9H7F4NO
